US07994185B2
Step A: 2,6-Difluoro-N-{2-fluoro-3-[5-(2-{[3-(methylthio)propyl]amino}-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (150 mg, 0.264 mmol) and 3-(methylthio)-1-propanamine (300 mg, 2.85 mmol), the title compound was obtained as a crude yellow foam and used directly in the next step. MS (ESI): 637.2 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.264 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H17ClF3N5O3S2
reactant | 3-(methylthio)-1-propanamine | 2.85 mmol, 300 mg | CSCCCN | C4H11NS
product | 2,6-Difluoro-N-{2-fluoro-3-[5-(2-{[3-(methylthio)propyl]amino}-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)NCCCSC)N1CCOCC1)F | C27H27F3N6O3S3
